US03984407
A solution of 16.1 g. (0.10 mole) of 6-amino-6,7,8,9-tetrahydro-5H-benzocycloheptene in 100 ml. of diethyl ether and 500 ml. of liquid NH3 is treated portionwise with 15 g. of lithium in small pieces. After 10 minutes, the mixture is treated dropwise with absolute ethanol to completely discharge the color. After removal of NH3, the residue is cooled and treated with water. Further extraction with ether and removal of organic solvent leaves crude 6-amino-1,4,6,7,8,9-hexahydro-5H-benzocycloheptene which is converted to its N-benzoyl derivative with benzoyl chloride-pyridine and thence to the tetrol as described previously.

reactant | 6-amino-6,7,8,9-tetrahydro-5H-benzocycloheptene | 0.10 mole | NC1CC2=C(CCC1)C=CC=C2 | C11H15N
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NH3 | N | H3N
reactant | lithium | [Li] | Li
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-1,4,6,7,8,9-hexahydro-5H-benzocycloheptene | NC1CC2=C(CCC1)CC=CC2 | C11H17N
